US04069256
Catalytic reduction of 3-benzylpyridine in glacial acetic acid over a platinum oxide catalyst and isolation of the product using the procedure described above in Preparation 1 affords 3-benzylpiperidine.

reactant | 3-benzylpyridine | C(C1=CC=CC=C1)C=1C=NC=CC1 | C12H11N
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | [Pt]=O
product | 3-benzylpiperidine | C(C1=CC=CC=C1)C1CNCCC1 | C12H17N
